US08871753B2
Step A: Benzyl 4-[(2-iodo-4-nitrophenyl)amino]piperidine-1-carboxylate
The desired compound was prepared according to the procedure of Example D83, step A, using 1-fluoro-2-iodo-4-nitrobenzene and benzyl 4-aminopiperidine-1-carboxylate as the starting materials in 64% yield. LCMS for C19H211N3O4 (M+H)+: m/z=482.0.

reactant | 1-fluoro-2-iodo-4-nitrobenzene | FC1=C(C=C(C=C1)[N+](=O)[O-])I | C6H3FINO2
reactant | benzyl 4-aminopiperidine-1-carboxylate | NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
product | Benzyl 4-[(2-iodo-4-nitrophenyl)amino]piperidine-1-carboxylate | 64% yield | IC1=C(C=CC(=C1)[N+](=O)[O-])NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H20IN3O4
